
* INA332
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: INA332
* Date: 22JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS216B – SEPTEMBER 2001 - REVISED OCTOBER 2006
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
*    INA332 SPICE MODEL PERFORMANCE
*
*	MODEL FEATURES INCLUDE OUTPUT SWING, OUTPUT CURRENT THRU
*	THE SUPPLY RAILS, GAIN AND PHASE, SLEW RATE, COMMON MODE
*	REJECTION WITH FREQUENCY EFFECTS, POWER SUPPLY REJECTION
*	WITH FREQUENCY EFFECTS, INPUT VOLTAGE NOISE WITH 1/F,
*	INPUT CURRENT NOISE WITH F^2, QUIESCENT	CURRENT AND CHANGE
*	WITH SUPPLY VOLTAGE AND TEMPERATURE, INPUT BIAS CURRENT,
*	INPUT BIAS CURRENT VARIANCE WITH COMMON MODE VOLTAGE
*	AND INPUT AND OUTPUT CLAMP DIODES. ALL THREE AMPLIFIERS
*	HAVE PROPER SLEW AND BANDWIDTH AND RAIL TO RAIL OUTPUT
*	STAGES. THE OVERALL INA HAS SHUTDOWN AND THE ABILITY TO
*	DRIVE LARGE CLOADS.
*
*	MODEL TEMP RANGE IS -55 TO +125 DEG C.
*
*	NOTE THAT THE MODEL IS FUNCTIONAL OVER THIS RANGE BUT NOT
*	ALL PARAMETERS TRACK THOSE OF THE REAL PART.
*
* BEGIN INA332 SPICE MODEL
*
* ORDER RG VIN- VIN+ V- REF VOUT V+ SD
* ORDER  1  2    3    4  5    6   7  8
*
.SUBCKT INA332 1 2 3 4 5 6 7 8
C48 192 4 280P
R187 88 82 R1M 39965
R188 23 88 R1M 10E3
R184 29 23 R1M 10E3
R185 5 29 R1M 40E3
.MODEL R1M RES TC1=800E-6
Q20 9 10 11 QN
R3 12 13 100
R4 14 13 100
R10 10 15 100
R11 16 17 100
R12 17 7 20
R13 4 15 20
R16 18 19 750
R17 20 21 20
R18 11 22 20
D5 23 7 DD
D6 4 23 DD
D7 24 0 DIN
D8 25 0 DIN
I8 0 24 0.1E-3
I9 0 25 0.1E-3
E3 21 0 7 0 1
D9 26 0 DVN
D10 27 0 DVN
I10 0 26 0.4E-6
I11 0 27 0.4E-6
E4 28 29 26 27 0.63
G2 30 29 24 25 2.7E-7
E5 31 0 21 0 1
E6 32 0 11 0 1
E7 33 0 34 0 1
R30 31 35 1E6
R31 32 36 1E6
R32 33 37 1E6
R33 0 35 100
R34 0 36 100
R35 0 37 100
E10 38 2 37 0 0.34
R36 39 34 1E3
R37 34 40 1E3
C6 31 35 0.2E-12
C7 32 36 0.2E-12
C8 33 37 2E-12
E11 41 38 36 0 0.15
E12 30 41 35 0 0.15
E14 42 11 21 11 0.5
D11 18 21 DD
D12 11 18 DD
M1 43 44 15 15 NOUT L=3U W=800U
M2 45 46 17 17 POUT L=3U W=800U
M3 47 47 20 20 POUT L=3U W=800U
M4 48 49 12 12 PIN L=3U W=600U
M5 50 28 14 14 PIN L=3U W=600U
M8 51 51 22 22 NOUT L=3U W=800U
R43 52 46 100
R44 53 44 100
G3 18 42 54 42 0.2E-3
R45 42 18 25E6
C12 19 23 52E-12
R46 11 48 2E3
R47 11 50 2E3
C13 48 50 5E-12
C14 30 0 2E-12
C15 28 0 0.5E-12
C16 23 0 1E-12
D13 44 9 DD
D14 55 46 DD
Q15 55 16 21 QP
V18 30 49 0
M19 56 57 21 21 PIN L=6U W=500U
E17 40 0 30 0 1
E18 39 0 29 0 1
M23 57 57 21 21 PIN L=6U W=500U
V21 56 13 0.5
R59 23 45 20
R60 43 23 20
J3 28 58 28 JJ
J4 30 58 30 JJ
C21 30 28 0.5P
E20 59 42 50 48 1
R62 59 54 10E3
C23 54 42 5E-12
G7 60 42 18 42 -1E-3
G8 42 61 18 42 1E-3
G9 42 62 51 11 1E-3
G10 63 42 21 47 1E-3
D17 63 60 DD
D18 61 62 DD
R66 60 63 100E6
R67 62 61 100E6
R68 63 21 1E3
R69 11 62 1E3
E23 21 52 21 63 1
E24 53 11 62 11 1
R70 61 42 1E6
R71 62 42 1E6
R72 42 63 1E6
R73 42 60 1E6
R75 41 30 1E9
R76 38 41 1E9
R77 2 38 1E9
R78 29 28 1E9
R79 42 54 1E9
R81 52 21 1E9
R82 11 53 1E9
R83 34 0 1E9
E2 11 0 4 0 1
V28 58 11 0.3
V29 21 64 0.3
J1 64 30 64 JJ
J6 64 28 64 JJ
G12 57 11 OZ 0 135E-6
E27 65 18 OZ 0 10
V33 66 65 -10
G13 47 51 OZ 0 800E-6
M24 42 66 18 67 PSD L=100U W=100U
R88 67 0 1E12
Q21 68 69 70 QN
R89 71 72 2
R90 73 72 2
R91 69 74 100
R92 75 76 100
R93 76 7 20
R94 4 74 20
R95 77 78 1.5E3
R96 79 80 20
R97 70 81 20
D20 82 7 DD
D21 4 82 DD
D22 83 0 DIN
D23 84 0 DIN
I21 0 83 0.1E-3
I22 0 84 0.1E-3
E28 80 0 7 0 1
D24 85 0 DVN
D25 86 0 DVN
I23 0 85 0.4E-6
I24 0 86 0.4E-6
E29 87 88 85 86 0.63
G14 89 88 83 84 2.7E-7
E30 90 0 80 0 1
E31 91 0 70 0 1
E32 92 0 93 0 1
R99 90 94 1E6
R100 91 95 1E6
R101 92 96 1E6
R102 0 94 100
R103 0 95 100
R104 0 96 100
E33 97 3 96 0 0.34
R105 98 93 1E3
R106 93 99 1E3
C24 90 94 0.2E-12
C25 91 95 0.2E-12
C26 92 96 2E-12
E34 100 97 95 0 0.15
E35 89 100 94 0 0.15
E36 101 70 80 70 0.5
D26 77 80 DD
D27 70 77 DD
M25 102 103 74 74 NOUT L=3U W=800U
M26 104 105 76 76 POUT L=3U W=800U
M27 106 106 79 79 POUT L=3U W=800U
M28 107 108 71 71 PIN L=1U W=600U
M29 109 87 73 73 PIN L=1U W=600U
M30 110 110 81 81 NOUT L=3U W=800U
R107 111 105 100
R108 112 103 100
G15 77 101 113 101 0.2E-3
R109 101 77 25E6
C27 78 82 26E-12
R110 70 107 2E3
R111 70 109 2E3
C28 107 109 3E-12
C29 89 0 2E-12
C30 87 0 0.5E-12
C31 82 0 1E-12
D28 103 68 DD
D29 114 105 DD
Q22 114 75 80 QP
V34 89 108 0
M31 115 116 80 80 PIN L=6U W=500U
E37 99 0 89 0 1
E38 98 0 88 0 1
M32 116 116 80 80 PIN L=6U W=500U
V35 115 72 0.4
R112 82 104 20
R113 102 82 20
J7 87 117 87 JJ
J8 89 117 89 JJ
C32 89 87 0.5E-12
E39 118 101 109 107 1
R114 118 113 10E3
C33 113 101 3E-12
G16 119 101 77 101 -1E-3
G17 101 120 77 101 1E-3
G18 101 121 110 70 1E-3
G19 122 101 80 106 1E-3
D30 122 119 DD
D31 120 121 DD
R115 119 122 100E6
R116 121 120 100E6
R117 122 80 1E3
R118 70 121 1E3
E40 80 111 80 122 1
E41 112 70 121 70 1
R119 120 101 1E6
R120 121 101 1E6
R121 101 122 1E6
R122 101 119 1E6
R124 100 89 1E9
R125 97 100 1E9
R126 3 97 1E9
R127 88 87 1E9
R128 101 113 1E9
R129 111 80 1E9
R130 70 112 1E9
R131 93 0 1E9
E42 70 0 4 0 1
V37 117 70 0.3
V38 80 123 0.3
J9 123 89 123 JJ
J10 123 87 123 JJ
G21 116 70 OZ 0 135E-6
E43 124 77 OZ 0 10
V39 125 124 -10
G22 106 110 OZ 0 800E-6
M33 101 125 77 126 PSD L=100U W=100U
R134 126 0 1E12
Q23 127 128 129 QN
R135 130 131 100
R136 132 131 100
R137 128 133 100
R138 134 135 100
R139 135 7 17
R140 4 133 25
R141 136 137 7E3
R142 138 139 17
R143 129 140 25
D33 6 7 DD
D34 4 6 DD
D35 141 0 DIN
D36 142 0 DIN
I27 0 141 0.1E-3
I28 0 142 0.1E-3
E44 139 0 7 0 1
D37 143 0 DVN
D38 144 0 DVN
I29 0 143 0.4E-6
I30 0 144 0.4E-6
E45 145 1 143 144 0.63
G23 146 1 141 142 1.36E-7
R144 4 7 1E9
E46 147 0 139 0 1
E47 148 0 129 0 1
E48 149 0 150 0 1
R145 147 151 1E6
R146 148 152 1E6
R147 149 153 1E6
R148 0 151 100
R149 0 152 100
R150 0 153 100
E49 154 82 153 0 0.34
R151 155 150 1E3
R152 150 156 1E3
C34 147 151 0.2E-12
C35 148 152 0.2E-12
C36 149 153 2E-12
E50 157 154 152 0 0.15
E51 146 157 151 0 0.15
E52 158 129 139 129 0.5
D39 136 139 DD
D40 129 136 DD
M34 159 160 133 133 NOUT L=3U W=800U
M35 161 162 135 135 POUT L=3U W=800U
M36 163 163 138 138 POUT L=3U W=800U
M37 164 165 130 130 PIN L=3U W=240U
M38 166 145 132 132 PIN L=3U W=240U
M39 167 167 140 140 NOUT L=3U W=800U
R153 168 162 100
R154 169 160 100
G24 136 158 170 158 0.2E-3
R155 158 136 25E6
C37 137 6 11E-12
R156 129 164 2E3
R157 129 166 2E3
C38 164 166 3E-12
C39 146 0 0.1E-12
C40 145 0 0.1E-12
C41 6 0 1E-12
D41 160 127 DD
D42 171 162 DD
Q24 171 134 139 QP
V40 146 165 80E-6
M40 172 173 139 139 PIN L=6U W=500U
E53 156 0 146 0 1
E54 155 0 1 0 1
M41 173 173 139 139 PIN L=6U W=500U
V41 172 131 0.25
R158 6 161 1
R159 159 6 12
J11 145 174 145 JJ
J12 146 174 146 JJ
C42 146 145 0.1P
E55 175 158 166 164 1
R160 175 170 10E3
C43 170 158 2E-12
G25 176 158 136 158 -1E-3
G26 158 177 136 158 1E-3
G27 158 178 167 129 1E-3
G28 179 158 139 163 1E-3
D43 179 176 DD
D44 177 178 DD
R161 176 179 100E6
R162 178 177 100E6
R163 179 139 1E3
R164 129 178 1E3
E56 139 168 139 179 1
E57 169 129 178 129 1
R165 177 158 1E6
R166 178 158 1E6
R167 158 179 1E6
R168 158 176 1E6
G29 7 4 180 0 -6E-4
I31 0 181 1M
D45 181 0 DD
V42 181 182 0.71
R169 0 182 1E6
R170 157 146 1E9
R171 154 157 1E9
R172 82 154 1E9
R173 1 145 1E9
R174 158 170 1E9
R175 168 139 1E9
R176 129 169 1E9
R177 150 0 1E9
E58 129 0 4 0 1
V43 174 129 0.3
V44 139 183 0.3
J13 183 146 183 JJ
J14 183 145 183 JJ
G30 173 129 OZ 0 135U
E59 184 136 OZ 0 10
V45 185 184 -10
G31 163 167 OZ 0 800E-6
M42 158 185 136 186 PSD L=100U W=100U
R180 186 0 1E12
R186 5 187 20E3
C44 187 29 8.75E-12
C45 23 88 3E-12
G32 7 4 OZ 0 -2.1E-3
M43 180 188 0 189 NSW L=3U W=300U
R190 0 189 1E12
R191 180 182 1E6
E62 190 0 OZ 0 -1
V52 188 190 1
R192 0 190 1E6
M44 191 192 193 193 PDI L=3U W=300U
M45 191 192 4 4 NDI L=3U W=300U
M46 194 195 0 0 NDS L=3U W=30000U
R193 8 196 100
R195 196 193 1E6
R196 194 197 1E7
C47 196 4 5E-12
V53 197 0 1
V54 194 198 0.88E-9
R197 0 198 1E12
E63 193 0 7 0 1
E64 OZ 0 198 0 1
R198 0 OZ 1E12
E65 195 0 191 4 1
R202 57 21 1E12
R203 11 51 1E12
R204 47 21 1E12
R205 116 80 1E12
R206 106 80 1E12
R207 70 110 1E12
R208 173 139 1E12
R209 163 139 1E12
R210 129 167 1E12
R211 199 192 100E3
E67 199 4 196 4 1
R213 4 199 1E12
I32 4 2 0.5E-12
I33 70 3 0.5E-12
R214 4 8 1E12
.MODEL DD D
.MODEL DIN D
.MODEL DVN D KF=3.69E-16 IS=1E-16
.MODEL QN NPN
.MODEL QP PNP
.MODEL JJ NJF IS=1E-17
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL PSD PMOS KP=200U VTO=-5 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-0.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PDI PMOS KP=200U VTO=-1.4 IS=1E-18
.MODEL NDI NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL NDS NMOS KP=2000U VTO=1.4 IS=1E-18
.ENDS
* END INA332 SPICE MODEL
